US06410584B1
To an ethanol (10 ml) solution of methyl 4-nitro-3-(oxopropyl)benzoate (13.0 g), added is palladium-carbon (5%, 2.6 g) in a nitrogen atmosphere. This is purged with hydrogen, and further stirred at room temperature for 3 hours and then at 60° C. for 19 hours. The solid is removed through filtration, and the filtrate is concentrated. The resulting oily product is crystallized from toluene. The crystal formed is collected and dried to obtain 5-(methoxycarbonyl)-2-methylindole (8.42 g).

reactant | methyl 4-nitro-3-(oxopropyl)benzoate | 13.0 g | [N+](=O)([O-])C1=C(C=C(C(=O)OC)C=C1)CCC=O | C11H11NO5
catalyst | palladium-carbon | 2.6 g | [C].[Pd]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-(methoxycarbonyl)-2-methylindole | 8.42 g | COC(=O)C=1C=C2C=C(NC2=CC1)C | C11H11NO2
